US07504393B2
(a) 6-Methoxy-1-(R)-(2-t-butyldimethylsilyloxyethyl)-3,4-dihydro-1H-isoquinoline-trifluoroacetamide
To a solution of 6-methoxy-1-(R)-(2-t-butyldimethylsilyloxyethyl)-3,4-dihydro-1H-isoquinoline (1.30 g, 4.05 mmol), synthesized according to the procedure described in J. Org. Chem. 57, 4732 (1992), and pyridine (0.65 ml, 8.10 mmol) in dichloromethane (20 ml) was added dropwise trifluoroacetic anhydride (0.69 ml, 4.86 mmol) under cooling in an ice bath, and the resulting mixture was stirred at room temperature. After confirming the disappearance of the starting material by thin layer chromatography, saturated aqueous sodium hydrogen carbonate solution was added with stirring, and the resulting mixture was extracted with ethyl acetate. The extract was washed successively with dilute hydrochloric acid and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethyl acetate (2:1) as the eluent to afford the title compound (1.50 g, yield: 88%) as a pale yellow oil.

reactant | 6-methoxy-1-(R)-(2-t-butyldimethylsilyloxyethyl)-3,4-dihydro-1H-isoquinoline | 4.05 mmol, 1.30 g | COC=1C=C2CCN[C@@H](C2=CC1)CCO[Si](C)(C)C(C)(C)C | C18H31NO2Si
reactant | pyridine | 8.10 mmol, 0.65 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 4.86 mmol, 0.69 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-Methoxy-1-(R)-(2-t-butyldimethylsilyloxyethyl)-3,4-dihydro-1H-isoquinoline trifluoroacetamide | 1.50 g, yield: 88% | COC=1C=C2CCN[C@@H](C2=CC1)CCO[Si](C)(C)C(C)(C)C.FC(C(=O)N)(F)F | InChI=1S/C18H31NO2Si.C2H2F3NO/c1-18(2,3)22(5,6)21-12-10-17-16-8-7-15(20-4)13-14(16)9-11-19-17;3-2(4,5)1(6)7/h7-8,13,17,19H,9-12H2,1-6H3;(H2,6,7)/t17-;/m1./s1
